US08487108B2
A solution of (S)-2-(tert-butoxycarbonylamino)-1-cyclohexylpentan-3-yl 4-methylbenzenesulfonate (640 mg, 1.46 mmol) in 33% MeNH2 (in EtOH) (0.02 M) was heated to 60° C. for 1 h in a pressure sealed vessel. The solvent was removed under reduced pressure to give (S)-tert-butyl 1-cyclohexyl-3-(methylamino)pentan-2-ylcarbamate. MS ESI +ve m/z 299 (M+H).

reactant | (S)-2-(tert-butoxycarbonylamino)-1-cyclohexylpentan-3-yl 4-methylbenzenesulfonate | 1.46 mmol, 640 mg | CC1=CC=C(C=C1)S(=O)(=O)OC([C@H](CC1CCCCC1)NC(=O)OC(C)(C)C)CC | C23H37NO5S
reactant | MeNH2 | 0.02 M | CN | CH5N
product | (S)-tert-butyl 1-cyclohexyl-3-(methylamino)pentan-2-ylcarbamate | C1(CCCCC1)C[C@@H](C(CC)NC)NC(OC(C)(C)C)=O | C17H34N2O2
